US09056857B2
Ethyl diisopropylamine (10.3 g, 13.9 mL, 79.8 mmol) and a solution of 1-pyrrolidino-1-cyclopentene (5.2 g, 5.5 mL, 37.8 mmol) in acetonitrile (75 mL) were added successively to a vigorously stirred solution of α,α′-dibromo-o-xylene (10.0 g, 38.0 mmol) in acetonitrile (75 mL) and the resultant mixture was heated to reflux under nitrogen for 18 hours. Water (75 mL) was added and the mixture was heated for an addition 1 hour. Then the solution was cooled and 10% hydrochloric acid (38 mL) was added. Most of the volatiles were removed in vacuo, and the resultant residue was extracted with ether (4×100 mL). The combined ethereal extracts were washed successively with brine, dried (Na2SO4), filtered, and concentrated. The concentrate was purified using flash column chromatography (“FCC”) to provide 11-oxo-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene (5.1 g, 72%).

reactant | Ethyl diisopropylamine | 79.8 mmol, 13.9 mL, 10.3 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-pyrrolidino-1-cyclopentene | 37.8 mmol, 5.5 mL, 5.2 g | N1(CCCC1)C1=CCCC1 | C9H15N
reactant | α,α′-dibromo-o-xylene | 38.0 mmol, 10.0 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | hydrochloric acid | 38 mL | Cl | ClH
reactant | Water | 75 mL | O | H2O
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
solvent | acetonitrile | 75 mL | C(C)#N | C2H3N
product | 11-oxo-5,6,7,8,9,10-hexahydro-6,9-methanobenzocyclooctene | 5.1 g, 72% | O=C1C2CC3=C(CC1CC2)C=CC=C3 | C13H14O
